* sg13g2-opamp -- CMRR bench, design/opamp_core.sch (issue #14)
* Generated from
* sim/cmrr-psrr/testbench/tb_cmrr.spice.tmpl by
* sim/cmrr-psrr/run_cmrr_psrr_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep.
*
* Point: corner=mos_fs temp_c=27 vdd_v=1.08
* PDK: ihp-sg13g2 /Users/rwalters/share/pdk (see sim/pdk.json for the pinned release)
* OSDI models: /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
* DUT netlist snapshot: /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-14/sim/cmrr-psrr/netlist-snapshots/20260921-151815-707b34c/opamp_core.spice (frozen copy of
*   design/netlist/opamp_core.spice alongside this generated testbench, so
*   the exact DUT netlist this point ran against is reviewable later)
*
* ------------------------------------------------------------------ method
* design/netlist/opamp_core.spice is a FLAT xschem netlist (its
* "**.subckt"/"**.ends" lines are full-line SPICE comments, not an active
* subcircuit wrapper -- verified directly against the generated file), so
* .include'ing it makes its own node names (vdd, vss, inn, inp, out, ibias,
* plus the internal d1/d2/tail nodes) live directly at this testbench's top
* level. No "X..." instantiation is needed or used.
*
* DC bias / AC loop-break: EXACTLY the open-loop-ac bench's self-biased
* topology (sim/open-loop-ac/testbench/tb_openloop_ac.spice.tmpl): an ideal
* inductor Lbreak = 1e18 H from inn to out. An ideal inductor is a dead
* short at DC (any inductance), so at DC this forces inn = out, and with
* the amplifier's own large open-loop gain the loop self-consistently
* settles near a unity-gain-buffer-like bias point (Vout(dc) close to
* Vinp(dc) = Vcm = VDD/2). Lbreak = 1e18 H (not the 1e9 H a loop-gain
* bench would use) keeps the Lbreak-Cgg corner frequency far below this
* sweep's 1 Hz lower bound, so the low-frequency plateau is clean -- see
* sim/open-loop-ac/README.md "Choosing Lbreak" for the empirical
* justification, reused verbatim here. Keeping this DC network byte-equal
* to the open-loop bench's is load-bearing: the CMRR ratio this experiment
* reports divides the SAME grid point's Av0 out of
* sim/open-loop-ac/records/*.csv (never re-measured here), which is only
* meaningful if both benches measured at the same DC operating point.
*
* Common-mode AC injection. The perturbation node cmpert (dc 0, ac 1 V
* magnitude, so vdb(out) IS Acm(f) in dB directly) reaches BOTH input gates
* in phase, without disturbing the DC feedback loop:
*   - inp: through its own DC-bias source Vinp (dc VCM, referenced to
*     cmpert instead of ground). An ideal voltage source enforces its
*     branch voltage in every analysis; with no "ac" value of its own it
*     contributes nothing in the .ac solve but still ties
*     v(inp) = v(cmpert) + VCM, so inp sits at exactly VCM at DC and
*     exactly the 1 V perturbation at AC -- identical DC placement to the
*     open-loop bench (a source to cmpert-at-0V-DC IS a source to ground).
*   - inn: through Ccm = 1 F. At DC a capacitor is an open circuit, so
*     inn's DC remains set by Lbreak alone (the loop is NOT disturbed --
*     tying inn directly to cmpert would pin it at Vcm and destroy the
*     feedback that makes this operating point well-defined in the first
*     place). At AC, from this sweep's 10 mHz lower bound upward, 1 F is a
*     short (|Z| <= 16 ohm, 0.16 ohm once past 1 Hz) against inn's only
*     other AC paths -- M1's femtofarad-scale gate impedance (~1e16 ohm at
*     10 mHz) and Lbreak (open) -- so v(inn) tracks v(cmpert) to ~1 part
*     in 1e15, a residual-differential artifact far below
*     double-precision interest.
* The two Ccm/Lbreak resonances (1.6e-10 Hz, even lower for the gate cap)
* sit far below the 1 Hz sweep start; two series capacitors alone cannot
* resonate.
*
* CMRR(f) = Av(f)/Acm(f) where Av(f) is the differential open-loop gain of
* the SAME grid point from sim/open-loop-ac/records/*.csv's Av0 column
* (per issue #14's own wording). run_cmrr_psrr_sweep.sh computes
* CMRR_db = Av0_db - Acm0_db; this testbench only measures Acm(f), with
* Acm0 = Acm(10 mHz) read from the flat low-frequency shelf (verified
* flat to 4 decimal places between 10 mHz and 1 Hz at the nominal point
* during dev-time prototyping -- same plateau-read framing as the
* open-loop template's Av0 read; run_cmrr_psrr_sweep.sh re-verifies the
* flatness per point with a plateau guard). Sign/magnitude convention: db() is a magnitude, so CMRR is a
* ratio of magnitudes -- the standard definition; the phase of Acm is
* recorded in the AC data for future frequency-domain work but does not
* enter the scalar CMRR number.
*
* ibias: a single external ideal current-source bias pin, per
* design/opamp_sizing.md "Bias scope" -- 10 uA sunk from vdd through the
* ibias node into the DUT's own diode-connected Mbias, which mirrors 1:1
* into the tail (M5) and at a ~5.41x ratio into the output-stage sink (M7).
* The current source is ideal and carries no AC value, so it injects no
* perturbation of its own -- the same scope decision the Iq rows make
* (design/opamp_sizing.md "Iq reporting note", sim/open-loop-ac/README.md).
*
* Per-point DC sanity check (op landed near mid-rail, no internal node
* fully railed) is computed by run_cmrr_psrr_sweep.sh from this file's own
* echoed OP_* lines below -- see this experiment's README.md "Per-point
* sanity checks" for the exact pass/fail rule (same rule as
* sim/open-loop-ac/, same necessary-not-sufficient caveat: this OSDI/PSP103
* build exposes no queryable per-device operating-point parameters).

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib" cap_typ
.include "/Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-14/sim/cmrr-psrr/netlist-snapshots/20260921-151815-707b34c/opamp_core.spice"

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib" mos_fs

.options temp=27 tnom=27

Vdd vdd 0 dc 1.08
Vss vss 0 dc 0
Iibias vdd ibias dc 10u
Vpert cmpert 0 dc 0 ac 1
Vinp inp cmpert dc 0.54
Ccm inn cmpert 1
Lbreak inn out 1e18
Cload out vss 2e-12

.control
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi

op
echo "OP_VOUT $&v(out)"
echo "OP_VD1 $&v(d1)"
echo "OP_VD2 $&v(d2)"
echo "OP_VTAIL $&v(tail)"
echo "OP_VIBIAS $&v(ibias)"
let ivdd_op = -i(vdd)
echo "OP_IVDD $&ivdd_op"

ac dec 20 10m 1g
let vout_db = db(v(out))
let vout_ph = cph(v(out)) * 180 / 3.14159265358979
wrdata /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-14/sim/cmrr-psrr/corners/20260921-151815-707b34c/mos_fs_27C_1.08V_cmrr_ac.csv vout_db vout_ph
.endc
.end
